US08067457B2
To a solution of (3R)-1-[1-(4-methoxyphenyl)piperidin-4-yl]pyrrolidin-3-amine (HCl salt, 1.2 g, 3.13 mmol), [(tert-butoxycarbonyl)amino]acetic acid (727 mg, 4.15 mmol) in 40 mL pyridine was added EDC (1.06 g, 5.5 mmol). After 16 hours at room temperature, water (10 mL) and CH2Cl2 (10 mL) were added and the organic layer was washed with brine, dried over Mg2SO4, filtered and concentrated. The crude mixture was subjected to flash chromatography to afford tert-butyl [2-({(3R)-1-[1-(4-methoxyphenyl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]carbamate (812 mg, 62%). To a solution of tert-butyl [2-({(3R)-1-[1-(4-methoxyphenyl)piperidinyl)pyrrolidin-3-yl}amino)-2-oxoethyl]carbamate (1.00 g, 2.31 mmol) in CH2Cl2 (10 mL) was added 4N HCl/dioxane (10 mL). After 2 hours, ether was added and 2-amino-N-{(3R)-1-[1-(4-methoxyphenyl)piperidin-4-yl]pyrrolidin-3-yl}acetamide (1.02 g, quant.)

reactant | (3R)-1-[1-(4-methoxyphenyl)piperidin-4-yl]pyrrolidin-3-amine | 3.13 mmol, 1.2 g | COC1=CC=C(C=C1)N1CCC(CC1)N1C[C@@H](CC1)N | C16H25N3O
reactant | [(tert-butoxycarbonyl)amino]acetic acid | 4.15 mmol, 727 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | EDC | 5.5 mmol, 1.06 g
reactant | water | 10 mL | O | H2O
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl [2-({(3R)-1-[1-(4-methoxyphenyl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]carbamate | 812 mg, 62% | COC1=CC=C(C=C1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(OC(C)(C)C)=O)=O | C23H36N4O4
